US04554020
Preparation of calcium borogluconate solution
28 grams of calcium oxide were added to water to form a thick slurry. This slurry was slowly added with stirring to 392 grams of a 50% aqueous solution of technical grade gluconic acid. After all of the slurry was added the resultant mixture was cooled and 61.8 grams of technical grade boric acid added. The mixture was stirred until a dark brown solution was obtained and then adjusted by water addition to provide a 40% solids solution.

reactant | calcium oxide | 28 grams | [O-2].[Ca+2]
reactant | gluconic acid | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H12O7
reactant | boric acid | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | calcium borogluconate | 40% | B1(OC(C(O1)C(C(C(=O)[O-])O)O)CO)O.B1(OC(C(O1)C(C(C(=O)[O-])O)O)CO)O.[Ca+2] | InChI=1S/2C6H11BO8.Ca/c2*8-1-2-5(15-7(13)14-2)3(9)4(10)6(11)12;/h2*2-5,8-10,13H,1H2,(H,11,12);/q;;+2/p-2
